Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
___: Cardiac catherization with no apparent CAD

 
History of Present Illness:
Ms. ___ is a ___ year old woman with a history of
thyroidectomy and osteoporosis who presents with chest pain. 

Ms. ___ was in her usual state of health until around
10:30AM on ___ when she was in exercise class which she attends
twice every week. She felt diaphoretic and was laboring
throughout the class and decided to sit down. She then felt like
she had a pulled muscle in her chest which persisted throughout
the day. She took one baby aspirin and continued on with her 
day,
but continued to feel diaphoretic with a chest tightness. She
took a second aspirin. The pain resolved spontaneously at 7:30pm
yesterday evening. 

She presented to ___ this morning and was
found to have an elevated troponin with T wave inversions and an
ST elevation in a single isolated lead. She was chest pain free
at that time. She was therefore transferred to ___. 

EMERGENCY DEPARTMENT COURSE
Initial vital signs were notable for:  
- T 98.7, HR 91, BP 136/85, RR 18, O2 97% RA 
 
Exam notable for: 
- General: in NAD
- Chest: Clear to auscultation bilaterally
- Cardiac: Systolic murmur appreciated
- Abdomen: Soft, nondistended, nontender
- Extremities: No pedal edema

Labs were notable for: 
- Trop-T 0.23 -> 0.20.  
- proBNP 3534
- TSH 0.35

Patient was given:  
- Heparin gtt
- Atorvastatin 80mg
- Metoprolol tartrate 6.25mg 
- Clopidogrel 300mg 

Consults: Cardiology

Vital signs prior to transfer: 
- T 98.2, HR 77, BP 119/78, RR 18, O2 96% Ra 

Upon arrival to the floor: She is asymptomatic. 
 
================= 
REVIEW OF SYSTEMS 
================= 
Complete ROS obtained and is otherwise negative.  

 
Past Medical History:
- Thyroid cancer s/p total thyroidectomy
- Schwanommatosis s/p removal of multiple benign spine lesions 
- Osteoporosis
- Chronic heart murmur 
 
Social History:
___
Family History:
- Sister had MI in early ___. Had a second MI around age ___.
Similarly had no apparent risk factors. 
- Father had MI late in life. Also had aortic aneurysm. 
 
Physical Exam:
=======================  
ADMISSION PHYSICAL EXAM 
=======================  
VITALS: T 98.2, BP 119/78, HR 77, RR 18, O2 96 RA  
GENERAL: Well appearing, sitting up in bed in no distress
HEENT: Pupils equal and reactive. No scleral icterus. Moist
mucous membranes. 
NECK: No JVD 
CARDIAC: S1/S2 regular with ___ systolic murmur throughout
precordium with preserved S2. Strong pedal and radial pulses. 
LUNGS: Clear bilaterally. 
ABDOMEN: Soft, non-tender. 
EXTREMITIES: Warm. No edema. 
SKIN: Warm and dry. 
NEUROLOGIC: A+Ox3. Appropriate affect.

=======================  
Discharge PHYSICAL EXAM 
=======================  
GENERAL: Well appearing, sitting up in bed in no distress
HEENT: Pupils equal and reactive. No scleral icterus. Moist
mucous membranes. 
NECK: No JVD  
LUNGS: Clear bilaterally. 
ABDOMEN: Soft, non-tender. 
EXTREMITIES: Warm. No edema. 
SKIN: Warm and dry. 
NEUROLOGIC: A+Ox3. Appropriate affect. 
 
Pertinent Results:
Labs:

___ 11:51AM BLOOD WBC-6.0 RBC-4.99 Hgb-14.5 Hct-44.1 MCV-88 
MCH-29.1 MCHC-32.9 RDW-13.8 RDWSD-44.4 Plt ___
___ 06:55AM BLOOD WBC-4.2 RBC-4.82 Hgb-13.8 Hct-42.2 MCV-88 
MCH-28.6 MCHC-32.7 RDW-13.9 RDWSD-44.5 Plt ___
___ 11:51AM BLOOD ___ PTT-150* ___
___ 06:55AM BLOOD PTT-65.6*
___ 11:51AM BLOOD Glucose-108* UreaN-14 Creat-0.6 Na-139 
K-3.9 Cl-102 HCO3-24 AnGap-13
___ 06:55AM BLOOD Glucose-90 UreaN-13 Creat-0.7 Na-139 
K-3.6 Cl-101 HCO3-23 AnGap-15
___ 11:51AM BLOOD proBNP-3534*
___ 11:51AM BLOOD cTropnT-0.23*
___ 01:50PM BLOOD cTropnT-0.20*
___ 11:51AM BLOOD Calcium-9.5 Phos-3.4 Mg-2.2 Cholest-215*
___ 06:55AM BLOOD Calcium-9.2 Phos-3.9 Mg-2.2
___ 02:48PM BLOOD %HbA1c-5.4 eAG-108
___ 11:51AM BLOOD Triglyc-56 HDL-69 CHOL/HD-3.1 
LDLcalc-135*
___ 11:51AM BLOOD TSH-0.35

___ CXR:
IMPRESSION: 
No evidence of focal consolidation, pulmonary edema or pleural 
effusions.

___ TTE:
CONCLUSION:
The left atrial volume index is mildly increased. There is no 
evidence for an atrial septal defect by 2D/color
Doppler. The estimated right atrial pressure is ___ mmHg. There 
is normal left ventricular wall thickness with
a normal cavity size. Overall left ventricular systolic function 
is mildly-to-moderately depressed secondary to
extensive circumferential apical hypokinesis sparing only the 
basal segments. The visually estimated left
ventricular ejection fraction is 40%. There is a mild (peak 19 
mmHg) resting left ventricular outflow tract
gradient with an increase to 29 mmHg (peak) with Valsalva. 
Normal right ventricular cavity size with normal
free wall motion. Tricuspid annular plane systolic excursion 
(TAPSE) is normal. The aortic sinus diameter is
normal for gender with normal ascending aorta diameter for 
gender. The aortic arch diameter is normal with a
normal descending aorta diameter. The aortic valve leaflets (3) 
appear structurally normal. There is no aortic
valve stenosis. There is trace aortic regurgitation. The mitral 
valve leaflets appear structurally normal with no
mitral valve prolapse. There is valvular systolic anterior 
motion (___). There is mild [1+] mitral regurgitation.
The pulmonic valve leaflets are normal. The tricuspid valve 
leaflets appear structurally normal. There is
physiologic tricuspid regurgitation. The pulmonary artery 
systolic pressure could not be estimated. There is no
pericardial effusion.

IMPRESSION: extensive apical hypokinesis

___ Cardiac Cath:
Findings
• No angiographically apparent coronary artery disease.
• Normal LVEDP.

 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with a history of 
thyroidectomy and osteoporosis who presents with chest pain and 
was found to have an NSTEMI with complete resolution of 
symptoms. Coronary cath was non-obstructive.

TRANSITIONAL ISSUES:
[] Repeat TTE in ___ to reassess for improvement in apical 
hypokinesis
[] Patient discharged on aspirin 81mg and clopidogrel. Reassess 
in ___ months (___) if patient should continue these 
medications
[] Started on atorvostatin, metoprolol during admission for CAD. 
Will need follow-up for these medications--including appropriate 
lab follow up and verification that patient is tolerating the 
medications
[] patient hypotensive on Lisinopril 2.5mg PO daily, continue to 
assess if patient can restart medication 

ACUTE ISSUES:

#NSTEMI: 
Presented with typical chest pain and found to have mild 
troponin elevation consistent with NSTEMI. Her sister similarly 
had no risk factors and had a MI in her early ___. Started on 
heparin drip. TTE demonstrated LVEF 40% with extensive apical 
hypokinesis. Cardiac cath demonstrated mid LAD with focal 30% 
stenosis vs normal variant appearance. Started during admission 
on atorvostatin, and metoprolol. Discharged on these medications 
in addition to clopidogrel and aspirin. She could not tolerate 
2.5mg PO Lisinopril due to hypotension. 

#Hyperlipidemia
Total cholesterol 215, LDL 135, HDL 69. 
- Atorvastatin 80mg 

#Hypotension
after cath patient had bleeding at incision site. BP decreased 
to ___ while working with ___ otherwise has had normal BPs. We 
discontinued her Lisinopril 2.5mg PO daily and decreased her 
metoprolol to 12.5mg PO daily. Monitored overnight with no 
issues and discharged with stable BP.

CHRONIC ISSUES: 
#Thyroidectomy
- Continued Synthroid
- Continued Alednronate 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 175 mcg PO DAILY 
2. Alendronate Sodium 70 mg PO QSUN 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 80 mg PO QPM  
3.  Clopidogrel 75 mg PO/NG DAILY  
4.  Metoprolol Succinate XL 12.5 mg PO DAILY  
5.  Alendronate Sodium 70 mg PO QSUN  
6.  Levothyroxine Sodium 175 mcg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
NSTEMI

Secondary Diagnosis:
Hyperlipidemia 
Hypothyroidism 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had a heart attack.  

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
-  You were given medications for your heart
-  You underwent a procedure to evaluate the blood flow to your 
heart. You did not have significant narrowing of the blood 
vessels to your heart. 

WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- Be sure to take all your medications and attend all of your 
appointments listed below. 
- It is very important to take your aspirin and clopidogrel 
(also known as Plavix) 
- These two medications keep the stents in the vessels of the 
heart open and help reduce your risk of having a future heart 
attack.  
- You are also given other new medications to help your heart
- Please do not take Lisinopril and take metoprolol succinate 
12.5mg PO daily.

It was a pleasure taking care of you at the ___ 
___! 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  
Your ___ Team 
 
Followup Instructions:
___